Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
sepsis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ recently discharged to ___ on ___ after prolonged  
 hospitalization s/p distal gastrectomy and B-2 for locally  
 invasive adenoca c/b afferent limb ischemia s/p resection  
 afferent limb, RNY D-J reconstruction and CCY, c/b enteric leak 
 
 and EC fistula s/p wound exploration, and tracheostomy 
placement  
 presents with sepsis. At her LTAC today was noted to be less  
 responsive, with hypotension to the low ___ and hypothermia to  

 92. She received an unknown amount of crystalloid and external  

 warming at ___ and was brought to ___.  
 On arrival to ___, she was awake but not following commands.  

 Her tracheostomy site was unremarkable, and she was placed on 
APV  
 60%/350x15/PEEP8, and saturations in the high ___. She 
continued  
 to be warmed. She was mildly tender in the RLQ, though this was 
 
 difficult to assess. Her abdominal wound and JP drain were  
 putting out bilious material, unchanged from previous. A Foley  

 catheter was putting out light colored urine containing a  
 significant amount of sediment. She was started on levophed,  
  When she was discharged from ___ on ___, she was not on  
antibiotics; however, meropenem was started at the ___ on ___. 
 

 
Past Medical History:
PMH: hypertension, hyperlipidemia, gastric ulcer (___)
PSH: s/p TAH for fibroids, Left Breast biopsy in ___, surgery 
at age ___ following polio complications

 
Social History:
___
Family History:
hypertension, no family history of solid organ tumors
 
Physical Exam:
PE ON DISCHARGE
BP:128/58; HR 75; R18; T98.8; 02 sat:100% min vent settings
GEN: intermittent agitation, emaciated 
Eyes: anicteric
Neck: no JVD
Trach site: c/d/i
Lungs: decreased BS at bases, scattered rhonchi
Cor: normal S1S2; I/VI systolic murmur at LSB; no ___ or rub
appreciated
Abdomen: BSA; no masses appreciated. Slightly-tender to 
palpation
in lower quadtrants. No organomegaly appreciated. EC fistula 
ostomy appliance. JP drain serous minimal output. Gtube to 
gravity. 

 
Brief Hospital Course:
Ms. ___ is an ___ who was recently discharged after a 
prolonged ICU course summarized in the HPI. She was admitted to 
the TSICU from ___, had aline placed in ED, with SBP on 
___. She was bloused with some improvement of blood 
pressures. She required single agent pressor (levo) with 
adequate MAPs. She was hypoglycemic and required multiple 
boluses with dextrose. She was started on antibiotics for 
empiric VAP. CT abdomen did not demonstrate intra-abdominal 
abscesses that could account for her sepsis. ID was consulted. 

HD2, TPN was restarted. She was transfused blood for anemia. She 
was bloused albumin. 

HD3, family meeting was held and the patient was made DNR. 

By HD4, the pressors were weaned off. She had an episode of 
bilious emesis overnight with concern for aspiration. NGT was 
placed. Gtube remained to gravity. 

On HD5, pts platelets continued to drop to 85 (from 200's on 
admission). SQH was discontinued and HITT panel was sent. INR 
was 2.5 therefore anticoagulation was not started. Self resolved 
episode of hematuria in the setting of elevated INR. 

On HD6, the patient was stable so she was discharged to ___ in 
stable condition. 

 Work up for septic focus has been unrevealing to date: 
_x0095_Abd Ct scan on ___ did not show any abscess; midline abd wall
defect with fluid; bibasilar consolidations 
_x0095_BC from ___  neg
_x0095_Mycolytic  BC from ___ pending
_x0095_Sputum from ___ and ___ isolated MSSA
_x0095_Sputum ___: neg legionella
_x0095_Peritoneal fluid ___ isolated  mixed bacterial flora; no ___ 
yeast; not C alibcans 
_x0095_CXR on ___ had possible RLL consolidation
_x0095_Duplex of UE: no DVT

Per ID recommendations, linezolid for VRE converage, Cefepime 
for empiric gnr coverage, Flagyl for ___ coverage, 
Micafungin for yeast coverage until ___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
2. camphor-menthol 0.5-0.5 % topical Q8H:PRN itching 
3. Fentanyl Patch 12 mcg/h TD Q72H 
4. Heparin 5000 UNIT SC BID 
5. HYDROmorphone (Dilaudid) 0.5 mg IV Q3H:PRN pain 
6. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin
7. Meropenem 1000 mg IV Q12H 
8. OLANZapine (Disintegrating Tablet) 5 mg PO BID 
9. Ondansetron 4 mg IV Q8H:PRN nausea 
10. Pantoprazole 40 mg IV Q24H 
11. Ursodiol 300 mg PO BID 

 
Discharge Medications:
1. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
2. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin
3. OLANZapine (Disintegrating Tablet) 5 mg PO BID 
4. Ondansetron 4 mg IV Q8H:PRN nausea 
5. Pantoprazole 40 mg IV Q24H 
6. CefePIME 2 g IV Q12H 
RX *cefepime [Maxipime] 2 gram 1 vial IV q12 Disp #*20 Vial 
Refills:*0
7. Linezolid ___ mg IV Q12H 
RX *linezolid ___ mg/300 mL 1 vial IV q12 Refills:*0
8. MetRONIDAZOLE (FLagyl) 500 mg IV Q8H 
RX *metronidazole in NaCl (iso-os) [Metro I.V.] 500 mg/100 mL 
500 mg IV q8 Disp #*30 Intravenous Bag Refills:*0
9. camphor-menthol 0.5-0.5 % topical Q8H:PRN itching 
10. Fentanyl Patch 12 mcg/h TD Q72H 
11. Ursodiol 300 mg PO BID 
12. Micafungin 100 mg IV Q24H 
RX *micafungin [Mycamine] 100 mg 1 vial IV q24 Disp #*10 Vial 
Refills:*0
13. HYDROmorphone (Dilaudid) 0.5 mg IV Q3H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Sepsis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
You were admitted to the surgery service at ___ after an 
episode of sepsis. You required medication to maintain your 
blood pressure but you are now off those medications and your 
blood pressures maintain at a proper level on their own. You are 
now safe to be discharged in ___ rehabilitation center to 
complete your recovery with the following instructions:
.
Please continue to keep J-tube to gravity drainage. Monitor and 
measure an output. Keep securely attached to the patient to 
prevent dislocation. 
.
Wound care: Mini-wound manager, empty Qshift and prn. Change 
weekly. Use strip paste to adhere the pouch. For skin use No 
Sting Barrier Wipe to protect from effluent all to dry. Cover 
Gtube and drain sites with tracheostomy foam dressings then 
Softsorb change daily and prn to keep skin dry. 
.
Left JP Drain Care: To bulb suction. Cleanse insertion site with 
mild soap and water or sterile saline, pat dry, and place a 
tracheostomy dressing. Monitor and record quality and quantity 
of output. Empty bulb frequently. Ensure that the JP is secured 
to the patient.
Monitor for s/s infection or dislocation. 
.
Portex cuffed trach 8.0mm: Care per protocol. 
Target volume - 350
PEEP - 5 
FiO2 - 35%
RR - 15
 
Followup Instructions:
___